US07361658B2
Anhydrous piperazine was added to a THF solution of methyl 3,4-difluorobenzoate, and the mixture was stirred at 60° C. for 18 hours to obtain methyl 3-fluoro-4-piperazin-1-ylbenzoate.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | methyl 3,4-difluorobenzoate | FC=1C=C(C(=O)OC)C=CC1F | C8H6F2O2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 3-fluoro-4-piperazin-1-ylbenzoate | FC=1C=C(C(=O)OC)C=CC1N1CCNCC1 | C12H15FN2O2
